US07608629B2
Preparation 80. N-[3-(1-Benzyl-3-methyl-piperidin-4-yloxy)-phenyl]-2-chloro-4-fluoro-benzamide cis isomer 1
Combine racemic 3-(1-benzyl-cis-3-methyl-piperidin-4-yloxy)-phenylamine (preparation 41, 0.80 g, 2.7 mmol), 1,4-dioxane (20 mL), and 2-chloro-4-fluoro-benzoyl chloride (0.625 g, 3.24 mmol), stir and heat at reflux. After 2 hr., cool to ambient temperature. Dilute with methanol and load the resulting solution on 210 g SCX columns. Wash each with methanol (2×50 mL). Elute product from each column with 2M ammonia/methanol (2×50 mL). Combine and concentrate the eluents. Purify residue by silica gel flash chromatography eluting with 5% (2M NH3/methanol)/methylene dichloride to obtain the title compound as a racemic mixture (1.07 g, 87.7%). Resolve using a Chiralpak AD™ 4.6×250 mm column eluting at 1.0 mL/min. with 10% absolute ethanol/90% Heptane with 0.2% DMEA to obtain of the title compound (0.524 g, 49.0%). Mass spectrum (electrospray): m/z=453.2 (M+1); 1H NMR (CDCl3): 7.85 (bs, 1H), 7.8 (dd, 1H), 7.45 (s, 1H), 7.3 (m, 7H), 7.1 (m, 1H), 7.0 (m, 1H), 6.75 (dd, 1H), 4.4 (m, 1H), 3.5 (m, 2H), 2.5 (m, 2H), 2.4 (m, 2H), 2.1 (m, 2H), 1.8 (m, 1H), 1.0 (d, 3H).

reactant | racemic 3-(1-benzyl-cis-3-methyl-piperidin-4-yloxy)-phenylamine | 2.7 mmol, 0.80 g | C(C1=CC=CC=C1)N1C[C@H]([C@H](CC1)OC=1C=C(C=CC1)N)C | C19H24N2O
reactant | 1,4-dioxane | 20 mL | O1CCOCC1 | C4H8O2
reactant | 2-chloro-4-fluoro-benzoyl chloride | 3.24 mmol, 0.625 g | ClC1=C(C(=O)Cl)C=CC(=C1)F | C7H3Cl2FO
solvent | methanol | CO | CH4O
product | N-[3-(1-Benzyl-3-methyl-piperidin-4-yloxy)-phenyl]-2-chloro-4-fluoro-benzamide | C(C1=CC=CC=C1)N1CC(C(CC1)OC=1C=C(C=CC1)NC(C1=C(C=C(C=C1)F)Cl)=O)C | C26H26ClFN2O2
